US04504490
1-Methoxycarbonyl-3-(5-phenoxysulfonyl-2-ureidophenyl)-thiourea (formula I)
25 ml of methoxycarbonyl isothiocyanate are added dropwise to 23.5 g of 5-phenoxysulfonyl-2-ureidoaniline in 100 ml of dioxane, with stirring, the temperature rising to about 35° C. The mixture is stirred for a further four hours without cooling, the dioxane is distilled off, the residue is stirred with diisopropyl ether and the solid is filtered off with suction.

reactant | methoxycarbonyl isothiocyanate | 25 ml | COC(=O)N=C=S | C3H3NO2S
reactant | 5-phenoxysulfonyl-2-ureidoaniline | 23.5 g | O(C1=CC=CC=C1)S(=O)(=O)C=1C=CC(=C(N)C1)NC(=O)N | C13H13N3O4S
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 1-Methoxycarbonyl-3-(5-phenoxysulfonyl-2-ureidophenyl)-thiourea | COC(=O)NC(=S)NC1=C(C=CC(=C1)S(=O)(=O)OC1=CC=CC=C1)NC(=O)N | C16H16N4O6S2
